US08648087B2
Step B: Preparation of 4-hydroxyquinazolin-6-yl acetate:
A mixture of quinazoline-4,6-diol (20 g, 123 mmol) and acetic anhydride (186 mL, 1.97 mol) was heated to 100° C. in pyridine (30 mL) for 2 hours. After cooling to room temperature, ice (200 g) was slowly added to the reaction mixture. The precipitate was filtered, washed with cold water, and dried under high vacuum to provide the product (16.25 g, 65%) as pale yellow solid.

reactant | quinazoline-4,6-diol | 123 mmol, 20 g | N1=CN=C(C2=CC(=CC=C12)O)O | C8H6N2O2
reactant | acetic anhydride | 1.97 mol, 186 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-hydroxyquinazolin-6-yl acetate | 16.25 g, 65% | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)O | C10H8N2O3
